US06583180B2
N-[4-(allyloxy)benzyl]-N-(2-methyl-3-nitrophenyl)amine
2-Methyl-3-nitroaniline and 4-allyloxybenzaldehyde were processed as described in Example 1C to provide the title compound.

reactant | 2-Methyl-3-nitroaniline | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | 4-allyloxybenzaldehyde | C(C=C)OC1=CC=C(C=O)C=C1 | C10H10O2
product | N-[4-(allyloxy)benzyl]-N-(2-methyl-3-nitrophenyl)amine | C(C=C)OC1=CC=C(CNC2=C(C(=CC=C2)[N+](=O)[O-])C)C=C1 | C17H18N2O3
